US03975375
3-Formyl-imidazolidin-2-on-1-carbonyl chloride ##SPC55##
A mixture of N-formyl-imidazolidin-2-one (6.0 parts by weight), benzene (40 parts by volume) and triethylamine (11.8 parts by volume) was boiled under reflux and at the same time a solution of trimethylchlorosilane (8.5 parts by weight) in benzene (20 parts by volume) was added dropwise. Thereafter the mixture was boiled for a further 5 hours and then left to stand overnight at room temperature and the precipitate present was filtered off and washed with benzene. The combined benzene solutions, on standing overnight, formed further amounts of precipitate which were filtered off. A solution of phosgene (15.6 parts by weight) in dichloromethane (30 parts by volume) was then added dropwise to the filtrate and the mixture was subsequently left to stand overnight in a refrigerator. It was then completely evaporated to dryness in a rotary evaporator. The residue, a mass which did not crystallize throughout to give a solid, was used, as it was, for the reaction with ampicillin.

reactant | N-formyl-imidazolidin-2-one | C(=O)N1C(NCC1)=O | C4H6N2O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | trimethylchlorosilane | C[Si](Cl)(C)C | C3H9ClSi
reactant | ampicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C=3C=CC=CC3)N)C(=O)O)C | C16H19N3O4S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-Formyl-imidazolidin-2-on-1-carbonyl chloride | C(=O)N1C(N(CC1)C(=O)Cl)=O | C5H5ClN2O3
